US05607952
N-(1-Benzylpiperid-4-yl)thiourea hydrobromide (Compound 2)
17 g of N-(1-benzylpiperid-4-yl)-N'-tert-butylthiourea are added to 170 ml of 33% hydrobromic acid in acetic acid; the reaction mixture is stirred at room temperature for 4 hours, then it is poured over diethylether. The crystals obtained are filtered and they are thoroughly washed with diethylether in order to obtain white crystals which melt at 120° C.; yield: quantitative.

reactant | N-(1-benzylpiperid-4-yl)-N'-tert-butylthiourea | 17 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(=S)NC(C)(C)C | C17H27N3S
reactant | hydrobromic acid | 170 ml | Br | BrH
reactant | diethylether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(1-Benzylpiperid-4-yl)thiourea hydrobromide | yield: quantitative | Br.C(C1=CC=CC=C1)N1CCC(CC1)NC(=S)N | InChI=1S/C13H19N3S.BrH/c14-13(17)15-12-6-8-16(9-7-12)10-11-4-2-1-3-5-11;/h1-5,12H,6-10H2,(H3,14,15,17);1H
